### PR TITLE
[Merged by Bors] - feat: lemma concerning for `‖cfc f a‖ < c`

### PR DESCRIPTION
**Pull request by j-loreaux**
---

Sorry, I forgot to add these in the recent PR for this file.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Isometric.lean [hunk 1]
```diff
@@ -483,6 +543,19 @@ lemma nnnorm_cfcₙ_nnreal_le_iff (f : ℝ≥0 → ℝ≥0) (a : A) (c : ℝ≥0
     (ha : 0 ≤ a := by cfc_tac) : ‖cfcₙ f a‖₊ ≤ c ↔ ∀ x ∈ σₙ ℝ≥0 a, f x ≤ c :=
   ⟨fun h _ hx ↦ apply_le_nnnorm_cfcₙ_nnreal f a hx hf hf₀ ha |>.trans h, nnnorm_cfcₙ_nnreal_le⟩
 
+lemma nnnorm_cfcₙ_nnreal_lt {f : ℝ≥0 → ℝ≥0} {a : A} {c : ℝ≥0} (h : ∀ x ∈ σₙ ℝ≥0 a, f x < c) :
+    ‖cfcₙ f a‖₊ < c := by
+  refine cfcₙ_cases (‖·‖₊ < c) a f ?_ fun hf hf0 ha ↦ ?_
+  · simpa using zero_le (f 0) |>.trans_lt <| h 0 (quasispectrum.zero_mem ℝ≥0 _) -- sorry
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Isometric.lean:549]:
```suggestion
  · simpa using zero_le (f 0) |>.trans_lt <| h 0 (quasispectrum.zero_mem ℝ≥0 _)
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+

**Comment by j-loreaux** [comment]
bors merge
